US07605271B2
To a 200 ml four necked flask equipped with a stirrer, a dropping funnel, a cooling tube and a thermometer, 48.07 g (0.5 mol) of 1-ethyl imidazole and 50 ml of toluene were charged and heated to 100° C., to which 55.07 g (0.50 mol) of methylmethane sulfonic acid was dropped slowly taking one hour or more and reacted for 25 hours. After reaction, they were cooled to room temperature and 101.07 g of 1-ethyl-3-methyl imidazolium methyl sulfonate was obtained by drying under a reduced pressure. Then, 101.07 g of the obtained diethyl hexyl methyl ammonium phosphate was dissolved in 50 ml of water, and a solution in which 189.68 g of lithium bis(pentafluoroethyl sulfonyl)imide was dissolved in 50 ml of water was added thereto at a room temperature and stirred. From separated two layers, the lower layer was fractionated and by-products were removed by adding 40 wt % of purified water and water washing five times, and vacuum drying was applied to obtain 228.71 g of 1-ethyl-3-methyl imidazolium bis(pentafluoromethane sulfonyl)imide. As a result of ICP analysis, the total alkali metals was 1.7 ppm, chloride ion was 0.6 ppm, and each of iodide and bromide ions was 0.1 ppm or less (lower than ICP detection limit).

reactant | 1-ethyl imidazole | 0.5 mol, 48.07 g | C(C)N1C=NC=C1 | C5H8N2
reactant | methylmethane sulfonic acid | 0.50 mol, 55.07 g | CCS(=O)(=O)O | C2H6O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-ethyl-3-methyl imidazolium methyl sulfonate | 101.07 g | CS(=O)(=O)[O-].C(C)[N+]1=CN(C=C1)C | InChI=1S/C6H11N2.CH4O3S/c1-3-8-5-4-7(2)6-8;1-5(2,3)4/h4-6H,3H2,1-2H3;1H3,(H,2,3,4)/q+1;/p-1
